US04329347
6-[4-(3-Methylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril (m.p. 147°-148° C.) and 3-methyl-thiophenol.

reactant | 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 3-methyl-thiophenol | CC=1C=C(C=CC1)S | C7H8S
product | 6-[4-(3-Methylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | CC=1C=C(C=CC1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO2S
